US04089855
A solution of 4.5 g of borane in 300 ml of tetrahydrofuran (THF) is cooled to -5° under a stream of nitrogen, and then a solution of 35 g of N-cyclobutylcarbonyl-3-methoxy-14-hydroxy-6-ketomorphinan in 200 ml of THF is added slowly over a 45 minute period, keeping the reaction temperature below 0° C. The reaction mixture is then refluxed for 3 hours, cooled, and 150 ml of ZN HCl is added slowly, which induces a vigorous evolution of gas. The solution is then evaporated to a volume of 150 ml in vacuo, diluted with 200 ml of water, and the pH adjusted to 9.0 by the careful addition of 14 N ammonium hydroxide. The precipitate is stirred for two hours and filtered to give crude N-cyclobutylmethyl-3-methoxy-6α,14β-di-hydroxymorphinan.

reactant | borane | 4.5 g | B | BH3
reactant | N-cyclobutylcarbonyl-3-methoxy-14-hydroxy-6-ketomorphinan | 35 g | C1(CCC1)C(=O)N1[C@H]2[C@@]3(CCC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)O | C22H27NO4
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | THF | 200 ml | O1CCCC1 | C4H8O
product | N-cyclobutylmethyl-3-methoxy-6α,14β-di-hydroxymorphinan | C1(CCC1)CN1[C@H]2[C@@]3(CC[C@@H](C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)O)O | C22H31NO3
